US05391541
By the method of Example 1, Step C, 15.40 grams (0.057 mole) of 2,5-dichloro-3-methoxyphenylmethyl bromide and 3.63 grams (0.074 mole ) of sodium cyanide were reacted in 70 mL of water and 65 mL of methanol, yielding 12.0 g of 2,5-dichloro-3-methoxyphenylacetonitrile as an oil that solidified on standing, m.p. 53°-57° C. The NMR and IR spectra were consistent with the proposed structure.

reactant | 2,5-dichloro-3-methoxyphenylmethyl bromide | 0.057 mole, 15.40 grams | ClC1=C(C=C(C=C1OC)Cl)CBr | C8H7BrCl2O
reactant | sodium cyanide | 0.074 mole, 3.63 grams | [C-]#N.[Na+]
solvent | water | 70 mL | O | H2O
solvent | methanol | 65 mL | CO | CH4O
product | 2,5-dichloro-3-methoxyphenylacetonitrile | 12.0 g | ClC1=C(C=C(C=C1OC)Cl)CC#N | C9H7Cl2NO
